US05654307
2-cyano-6-fluoro-3-nitropyridine.
A mixture of 6-chloro-2-cyano-3-nitropyridine [Colbry, N. L.; Elslager, E. F.; Werbel, L. M.; J. Het. Chem., 1984, 21, 1521-1525] (10.0 g, 0.054 mol) and KF (9.48 g, 0.163 mol) in MeCN (200 mL) is heated under reflux with stirring for 18 h, then poured into water and extracted with EtOAc. The extract is washed with water and worked up, and the residue is chromatographed on silica gel, eluting with EtOAc/petroleum ether (3:7), to give after removal of the solvent under reduced pressure 2-cyano-6-fluoro-3-nitropyridine (7.2 g, 79%). 1H NMR (CDCl3) δ 8.79 (1H, dd, J=9.0, 6.0 Hz), 7.48 (1H, dd, J=9.0, 3.0 Hz).

reactant | 6-chloro-2-cyano-3-nitropyridine | 0.054 mol, 10.0 g | ClC1=CC=C(C(=N1)C#N)[N+](=O)[O-] | C6H2ClN3O2
reactant | KF | 0.163 mol, 9.48 g | [F-].[K+]
reactant | water | O | H2O
solvent | MeCN | 200 mL | CC#N | C2H3N
product | 2-cyano-6-fluoro-3-nitropyridine | C(#N)C1=NC(=CC=C1[N+](=O)[O-])F | C6H2FN3O2
